US07732644B2
A 500 mL four-necked flask equipped with a stirrer, a thermometer, a reflux condenser and a dropping funnel was charged with 171 g (0.98 mol) of campholenic aldehyde (purity: 88%), 3.8 g (0.045 mol) of piperidine and 13.1 g (0.046 mol) of stearic acid, and the contents in the flask were stirred while heating at 100° C. Then, 91 g (1.6 mol) of propionaldehyde was gradually dropped into the flask for 6 h, and the resultant mixture was aged for 1 h and then cooled. Thereafter, 3.2 g (0.053 mol) of acetic acid was added to the mixture to remove amines therefrom, thereby separating the mixture into two layers. The thus separated organic layer was washed with water and separated into two layers, thereby obtaining 295 g (0.93 mol) of 2-methyl-4-(2,2,3-trimethylcyclopent-3-en-1-yl)-but-2-en-1-al (purity as measured by gas chromatography: 60.6%) (yield based on theoretical amount: 95%).

reactant | campholenic aldehyde | 0.98 mol, 171 g | CC1=CCC(C1(C)C)CC=O | C10H16O
reactant | propionaldehyde | 1.6 mol, 91 g | C(CC)=O | C3H6O
catalyst | piperidine | 0.045 mol, 3.8 g | N1CCCCC1 | C5H11N
catalyst | stearic acid | 0.046 mol, 13.1 g | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
catalyst | acetic acid | 0.053 mol, 3.2 g | C(C)(=O)O | C2H4O2
product | 2-methyl-4-(2,2,3-trimethylcyclopent-3-en-1-yl)-but-2-en-1-al | 0.93 mol, 295 g | CC(C=O)=CCC1C(C(=CC1)C)(C)C | C13H20O
